US04857539
3-Methyl-5-{7-[4-(2-methyl-4-thiazolyl)phenoxy]heptyl}-isoxazole [I; Z=N, Het=4-(2-methyl-4-thiazolyl), R1 and R2 =H, Y=(CH2)7 ] was prepared from 7.3 g of 4-(2-methyl-4-thiazolyl)phenol and 5-(7-bromoheptyl)-3-methylisoxazole according to the procedure of Example 4: yield 10.6 g, m.p. 100-101° C.

reactant | 4-(2-methyl-4-thiazolyl)phenol | 7.3 g | CC=1SC=C(N1)C1=CC=C(C=C1)O | C10H9NOS
reactant | 5-(7-bromoheptyl)-3-methylisoxazole | BrCCCCCCCC1=CC(=NO1)C | C11H18BrNO
product | 3-Methyl-5-{7-[4-(2-methyl-4-thiazolyl)phenoxy]heptyl}-isoxazole | CC1=NOC(=C1)CCCCCCCOC1=CC=C(C=C1)C=1N=C(SC1)C | C21H26N2O2S
